US04451476
3-(5-Bromopentyl)-5-methylisoxazole was prepared by reacting 3-(5-hydroxypentyl)-5-methylisoxazole with bromine and triphenylphosphine according to the procedure of part (f) above, and was obtained in 77% yield as an oil, b.p. 140°-150° C.(0.05 mm).

reactant | 3-(5-hydroxypentyl)-5-methylisoxazole | OCCCCCC1=NOC(=C1)C | C9H15NO2
reactant | bromine | BrBr | Br2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(5-Bromopentyl)-5-methylisoxazole | 77% yield | BrCCCCCC1=NOC(=C1)C | C9H14BrNO
